* SUDS ADC macro sanity deck for Xyce
* Evidence label: spice_macro
* Boundary: behavioral/macro deck for ADC-tier energy calibration only.
* Not PDK, not extracted layout, not silicon, not measured hardware energy.

.PARAM VDD=1.0
.PARAM BITS=4
.PARAM FS_GSPS=1
.PARAM NCONV=128

Vvdd vdd 0 {VDD}
Vin in 0 SIN(0.5 0.49 6.25000000e+07)
Rsrc in afe 50
Csample afe 0 1.000000000000e-15
Iadc vdd 0 PULSE(0 3.472222222222e-04 0 1.000000000000e-11 1.000000000000e-11 1.800000000000e-10 1.000000000000e-09)

.TRAN 3.125000000000e-11 1.280000000000e-07
.PRINT TRAN FORMAT=CSV FILE="/Users/jk6k/Desktop/fyp/experiments/results/runs/suds_adc_macro_spice_20260512_j1_quality_boost/xyce/traces/adc4_sine_jitter_stress.csv" TIME V(in) V(afe) I(Vvdd)
.END
